US05843957
Preparation of N-[1-butyl-4-{3-(4-amino-1-butynyl)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea
To a solution of N-[1-butyl-4-{3-(4-phthalimido-1-butynyl)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea (50 mg, 0.072 mmol) in ethanol (1 ml) was added 30% methylamine ethanol solution (1.0 ml), and the mixture was stirred at room temperature. The mixture was concentrated under reduced pressure to remove the solvent, and the residue was purified by silica gel column chromatography (5% methanol in chloroform) to give the title compound (33 mg, 0.058 mmol).

reactant | N-[1-butyl-4-{3-(4-phthalimido-1-butynyl)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 0.072 mmol, 50 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)C#CCCN1C(C=2C(C1=O)=CC=CC2)=O)NC(=O)NC2=C(C=CC=C2C(C)C)C(C)C)=O | C43H43N5O4
reactant | methylamine ethanol | 1.0 ml | C(C)O.CN
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | N-[1-butyl-4-{3-(4-amino-1-butynyl)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 0.058 mmol, 33 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)C#CCCN)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C35H41N5O2
